US06451814B1
Dimethyl-carbamic Acid 4-(2-{[4-(4-{2-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-amino}-ethyl)-phenyl Ester
4-{2-[({4-[4-(2-Aminoethyl)anilino]-1-piperidinyl}carbonyl)amino]ethyl}phenyl dimethylcarbamate formate (0.47 g, 0.94 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.40 g, 1.0 mmol) according to Procedure G (eluant: 20:1 chloroform-methanol) to give the title compound (0.22 g, 0.256 mmol).

reactant | 4-{2-[({4-[4-(2-Aminoethyl)anilino]-1-piperidinyl}carbonyl)amino]ethyl}phenyl dimethylcarbamate formate | 0.94 mmol, 0.47 g | C(=O)O.CN(C(OC1=CC=C(C=C1)CCNC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCN)=O)C
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 1.0 mmol, 0.40 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | Dimethyl-carbamic Acid 4-(2-{[4-(4-{2-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-amino}-ethyl)-phenyl Ester | 0.256 mmol, 0.22 g | O[C@@H](CNCCC1=CC=C(C=C1)NC1CCN(CC1)C(=O)NCCC1=CC=C(C=C1)OC(N(C)C)=O)COC1=CC=C(C=C1)O | C34H45N5O6
